US04489093
50 ml of a solution of 16N butyllithium in hexane were added over 25 minutes at -115° C. to a solution of 28.3 g of tert-butyl (1R,cis) 2,2-dimethyl-3-(2,2-dibromovinyl)-cyclopropane-1-carboxylate in 120 ml of tetrahydrofuran and 120 ml of ether and after stirring the mixture at -115° C. for 15 minutes, 10 ml of n-propyl chloroformate were progressively added thereto. The mixture was stirred at -115° C. for 20 minutes, at -65° C. for one hour and was poured into an aqueous monosodium phosphate solution. The mixture was extracted with ether and the organic phase was washed with water, dried and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with a 95-5 cyclohexane-ethyl acetate mixture to obtain 3.52 g of tert.-butyl (1R,cis) 2,2-dimethyl-3(Z)-[2-bromo-2-propyloxycarbonyl-ethenyl]-cyclopropane-1-carboxylate and 3.16 g of the corresponding 3(E)-isomer.

reactant | butyllithium | 16N | C(CCC)[Li]
reactant | tert-butyl (1R,cis) 2,2-dimethyl-3-(2,2-dibromovinyl)-cyclopropane-1-carboxylate | 28.3 g | CC1([C@@H]([C@@H]1C=C(Br)Br)C(=O)OC(C)(C)C)C | C12H18Br2O2
reactant | n-propyl chloroformate | 10 ml | ClC(=O)OCCC | C4H7ClO2
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | ether | 120 ml | CCOCC | C4H10O
product | tert.-butyl (1R,cis) 2,2-dimethyl-3(Z)-[2-bromo-2-propyloxycarbonyl-ethenyl]-cyclopropane-1-carboxylate | 3.52 g | CC1([C@@H]([C@@H]1\C=C(\C(=O)OCCC)/Br)C(=O)OC(C)(C)C)C | C16H25BrO4
